Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
erythromycin base / codeine / Penicillins / vancomycin
 
Attending: ___.
 
Chief Complaint:
findings concerning
for mastoiditis in the setting of acute onset right sided face
numbness more than 24 hours ago.
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ year old female with past medical history of
DM2, HTN and remote history of c-spine injury (as a child) who
presents as transfer from OSH with imaging findings concerning
for mastoiditis in the setting of acute onset right sided face
numbness more than 24 hours ago. Patient reports that around
3:15p on the day prior to presentation she had acute onset sharp
pain above her right eyes and then developed tingling down right
half of face. She then developed numbness over the right half of
her face "like Novocain". This resolved after about 5 minutes,
but then later returned and has been present ever since. She has
associated intermittent sharp shooting jaw pain intermittently
and also a pressure sensation on the right side of her head. She
denies any fevers, chills, toothache, changes in vision,
difficulty speaking or other numbness or tingling. She denies
recent ear infections. She did have recent dental cleaning of
left mandibular tooth and received amoxicillin after the
cleaning. No recent travel, no tick bites. No history of blood
clots. 

On neurologic review of systems, the patient denies
lightheadedness, or confusion. Denies difficulty with producing
or comprehending speech. Denies loss of vision, blurred vision,
diplopia, vertigo, tinnitus, hearing difficulty, dysarthria, or
dysphagia. Denies focal muscle weakness. Denies bowel or bladder
incontinence or retention. Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
DM2
HTN (not on medication)
Remote cervical injury- was thrown from a hoarse and was
reportedly left with left sided weakness for several months 
which
fully resolved
h/o lumbar spinal surgery 
Acne req doxycycline
*no history of CVA, seizure, blood clots*   

 
Social History:
___
Family History:
- Mother- CVA
- Father- MI         
 
Physical ___:
Admission Physical Exam:
PHYSICAL EXAMINATION
Vitals: T: 99.3 P: 87 R: 18 16  BP: 146/72  SaO2:99%
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx, no mastoid ttp, no gingival ttp, no ___ ttp,
tympanic membranes clear
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No ___ edema.
Skin: had forehead scaling with no vesicles

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt was able to
register 3 objects and recall ___ at 5 minutes. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
 II, III, IV, VI:  PERRL 4 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Visual acuity
___ bilaterally. Fundoscopic exam revealed no papilledema,
exudates, or hemorrhages.
 V: Facial sensation diminished to on RIGHT to pin prick and LT
in patchy V1 and completely in V2, V3 distribution. Of note also
diminished in RIGHT patchy C2/C3 distribution. +corneals present
bilaterally and symmetric. Of note, splits midline with
vibration. Motor w/ contraction of temporalalis and masseter in
tact bl.
 VII: No facial droop, facial musculature symmetric.
 VIII: Hearing intact to finger-rub bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
 No adventitious movements, such as tremor, noted. No asterixis
noted.
   Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
 L  5    ___   ___  5   5    5  5     5     5   5
 R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: As above: Patchy diminished PP and LT on RIGHT V1 and
completely for RIGHT V2,V3. Patchy diminished PP and LT in C2/C3
distribution. Temperature intact throughout. No extinction to
DSS.

-DTRs:
   Bi Tri ___ Pat Ach
 L  2  2    2    2   1
 R  2  2    2    2   1
 Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

Discharge Physical Exam:
Unchanged
 
Pertinent Results:
OSH IMAGING:

+ CT scan of head: Negative for acute process

+ MRI brain with and without: Brain parenchyma within normal
limits. No restricted diffusion. No signs of intercurrent
hemorrhage. No evidence of enhancing lesion the trigeminal 
nerve.
Her sinuses are unremarkable. Cerebral pontine angles are within
normal limits. There is no evidence to suggest abnormal
enhancement of the dura of Meckel's cave. There is a fluid
opacification of the air cells within the right petrous apex per
there is no evidence of enhancement of the mucosa within the
right petrous apex and a high resolution postcontrast studies.
The lack of information would mitigate against acute 
inflammation
and apicitis however it is conceivable with the facial symptoms
related to the right petrous apex opacification. The enhanced
study of the entire brain shows no abnormal enhancement. Normal
venous enhancement within the major sinuses and jugular bulbs

IMPRESSION: Interval fluid OPACIFICATION of the right petrous
apex on the right without secondary MR findings of inflammation.
Correlation with cranial nerve neurologic exam and clinical
presentation recommended to exclude petrous apicitis. High-res 
CT
of the temporal bones recommended

+ CT of the temporal bones without contrast: Opacification of 
the
mastoid air cells at the apex. There is no evidence of bone
destruction or significant expansion. Findings consistent with
apical mastoiditis. 

IMAGING: Findings consistent with early or mild right apical
mastoiditis. No evidence of bone destruction or expansion.

+ Verbal review of imaging reviewed by the neuroradiology
fellow on call: Opacification of right petrous apex air cells
(fluid consistency, not fat), no bony erosion of the petrous
apex, no dural enhancement/thickening of Meckel's cave, no
cavernous sinus thrombosis, no bony erosion of the mastoid, 
which
is mostly aerated, and no middle ear effusion. No trigeminal
enhancement.  

___ 07:05AM BLOOD WBC-5.7 RBC-4.09 Hgb-11.5 Hct-34.2 MCV-84 
MCH-28.1 MCHC-33.6 RDW-12.7 RDWSD-38.5 Plt ___
___ 07:05AM BLOOD Glucose-186* UreaN-12 Creat-0.6 Na-144 
K-3.6 Cl-104 HCO3-25 AnGap-15
___ 07:05AM BLOOD Calcium-8.6 Phos-4.2 Mg-1.8
___ 07:05AM BLOOD TSH-1.9
___ 05:45PM BLOOD CRP-1.8
 
Brief Hospital Course:
Mrs. ___ is ___ year old female with past medical 
history of
DM2, HTN and remote history of c-spine injury (as a child) who
presents as transfer from OSH with imaging findings concerning
for mastoiditis in the setting of acute onset right sided face
numbness more than 24 hours ago. ENT evaluated and did not feel 
this was consistent with her exam and recommended watchful 
waiting rather than antibiotics. She also reported acute onset 
of numbness and associated intermittent jaw pain and right head 
pressure without fevers or chills. No history of recent ear 
infection, but recent possible tooth infection and dental 
manipulation. Exam is notable for odd sensory deficits including 
right sided decreased sensation to pin prick and light touch in 
patchy areas of V1 (essentially no sensory deficits posterior to 
hairline), V2, V3 as well as C2/C3 in certain areas (directly 
under the jaw, behind the ear, but not on the posterior scalp). 
Interestingly, there was split vibration sensation at the 
midline of the forehead. Corneals were brisk and present 
bilaterally. Trigeminal motor intact. She had no other cranial 
nerve deficits.

She had no other motor or sensory findings. Furthermore, no 
posterior auricular pain, no gingival pain, no cervical LAD. 
Labs showed no leukocytosis and CRP is not elevated. Per review 
of imaging by neuroradiology fellow, there is opacification of 
right petrous apex air cells (fluid consistency), no bony 
erosion of the petrous apex, no dural enhancement/thickening of 
Meckel's cave, no cavernous sinus thrombosis, no bony erosion of 
the mastoid, which is mostly aerated, and no middle ear 
effusion. No trigeminal enhancement. No mengingeal enhancement. 
No other restricted diffusion on brain MRI. Dedicated CT of the 
temporal bones showed opacification of the mastoid air cells at 
the apex with no bony destruction or expansion which may be due 
to early apical mastoiditis. Differential of her trigeminal and 
C2/3 sensory deficits is difficult to ascertain. It is possible 
that her C2/C3 deficits are chronic from her remote history of 
cervical trauma and facial sensory deficits are acute onset.  
Would not likely attribute her findings to mastoiditis, and ENT 
thinks this is unlikely given no preceding otologic infection, 
no leukocytosis, and no post auricular pain on exam. 

We think that the most likely etiology of her symptoms is a 
viral infection of the cranial nerve V ganglion. In the absence 
of vesicular outbreak or the finding of enhancement of the 
trigeminal nerve ganglion on MRI, anti-viral Rx thought not 
indicated.  We gave her gabapentin to help with nerve pain, to 
be taken BID. There were no changes in her exam, and she 
remained stable for discharge ___ shortly after admission. She 
should follow up with ENT and with neurology; appointments were 
made for her prior to discharge. She should continue her home 
medications of atorvastatin 10mg, lisinopril 10mg, and metformin 
1000mg BID. 
 
Medications on Admission:
Atorvastatin 10mg QHS
Lisinopril 10mg PO Daily
Metformin 1000mg BID
 
Discharge Medications:
1.  Gabapentin 300 mg PO BID 
RX *gabapentin 300 mg 1 capsule(s) by mouth twice a day Disp 
#*60 Capsule Refills:*3 
2.  Atorvastatin 10 mg PO QPM  
3.  Lisinopril 10 mg PO DAILY  
4.  MetFORMIN (Glucophage) 1000 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Viral infection of CNV ganglion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted because of right facial numbness with 
intermittent waves of pain lasting 45 seconds in the setting of 
a possible apical mastoiditis. You did not have any infectious 
symptoms, and your blood tests looking for infection were 
normal. The ear/nose/throat doctors came to ___ you, and they 
did not feel like you have an active infection at this time. 
They would like to see you as an outpatient in ___ weeks. 

You had an MRI done at another hospital because of the face 
numbness. Thankfully, all your nerves that run through your 
brain look normal. There is no stroke. 

We think that your symptoms are due to a viral infection that 
hit the fifth nerve that provides sensation to your face. We 
have started you on a new medication called GABAPENTIN to help 
with the pain. Please take this medication twice per day. We 
will see you in neurology clinic as follow up.

You also had an MRI of your brain, which did not show any 
problems with any of the nerves going to your face.
 
Followup Instructions:
___